US07189741B2
This compound was prepared following the procedure described in example 1 (part D) starting with 0.5 g (2.5 mmol) of 6-fluoro-3-piperidin-4-yl-1H-indole and 0.88 g (3.2 mmol) of 5-bromomethyl-2-methoxy-benzoic acid ethyl ester. After standard purification, 0.83 g (91% of yield) of 5-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxy-benzoic acid ethyl ester were obtained.

reactant | 6-fluoro-3-piperidin-4-yl-1H-indole | 2.5 mmol, 0.5 g | FC1=CC=C2C(=CNC2=C1)C1CCNCC1 | C13H15FN2
reactant | 5-bromomethyl-2-methoxy-benzoic acid ethyl ester | 3.2 mmol, 0.88 g | C(C)OC(C1=C(C=CC(=C1)CBr)OC)=O | C11H13BrO3
product | 5-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxy-benzoic acid ethyl ester | 0.83 g, 91% | C(C)OC(C1=C(C=CC(=C1)CN1CCC(CC1)C1=CNC2=CC=CC=C12)OC)=O | C24H28N2O3
